US08258134B2
A solution of 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide (31.1 g, 0.14 mol) in methylene chloride and triethylamine (65.5 g, 0.65 mol) was treated dropwise with trifluoroacetic anhydride (62.2 g, 0.30 mol). The resulting solution was stirred at 25° C. for 5 min. After this time, the reaction was washed with a 2N aqueous hydrochloric acid solution and a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered, rinsed and concentrated in vacuo to afford 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile (25.1 g, 87%) as a white solid; ESI-MS 214 [M+H+]; HPLC: >95% (purity). 1H-NMR (300 MHz, CDCl3) δ 11.75 (s, 1H), 7.91 (s, 1H), 7.71-7.81 (m, 2H), 7.44-7.49 (m, 1H), 7.28-7.30 (m, 1H), 5.98 (s, 1H).

reactant | 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide | 0.14 mol, 31.1 g | O=C1C=C(C=NN1)OC1=C(C(=O)N)C=CC=C1 | C11H9N3O3
reactant | triethylamine | 0.65 mol, 65.5 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.30 mol, 62.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile | 25.1 g, 87% | O=C1C=C(C=NN1)OC1=C(C#N)C=CC=C1 | C11H7N3O2
